US07361678B2
Sodium borohydride (227 mg, 6 mmol) was added at 0° C. to a stirred solution of (2S,4R)-N-BOC-4-(t-butyldimethylsilyloxy)prolinaldehyde (522 mg, 1.58 mmol) in MeOH (10 mL), and the mixture was stirred at rt for 3 h. The reaction was quenched by adding sat. NaHCO3 (20 mL), and the resulting mixture was extracted with EtOAc (3×50 mL). The EtOAc extracts were washed with brine (2×50 mL), and dried (Na2SO4). The solvent was removed in vacuo to give (2S,4R)-N-BOC-4-(t-butyldimethylsilylhydroxy)prolinol (550 mg).

reactant | Sodium borohydride | 6 mmol, 227 mg | [BH4-].[Na+]
reactant | (2S,4R)-N-BOC-4-(t-butyldimethylsilyloxy)prolinaldehyde | 1.58 mmol, 522 mg | C(=O)(OC(C)(C)C)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
solvent | MeOH | 10 mL | CO | CH4O
product | (2S,4R)-N-BOC-4-(t-butyldimethylsilylhydroxy)prolinol | 550 mg | C(=O)(OC(C)(C)C)N1[C@H](CO)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H33NO4Si
